US04450164
8-Benzyloxy-3-dimethylaminomethyl-2-methylimidazo[1,2-a]pyridine
8-benzyloxy-3-dimethylaminomethyl-imidazo[1,2-a]pyridine and the corresponding 2-hydroxymethyl analogues thereof (e.g. 8-benzyloxy-3-dimethylaminomethyl-2-hydroxymethylimidazo[1,2-a]pyridine.

reactant | 8-benzyloxy-3-dimethylaminomethyl-imidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=CN2)CN(C)C | C17H19N3O
reactant | 8-benzyloxy-3-dimethylaminomethyl-2-hydroxymethylimidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)CO)CN(C)C | C18H21N3O2
product | 8-Benzyloxy-3-dimethylaminomethyl-2-methylimidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)CN(C)C | C18H21N3O
